US07429609B2
3-(3-Fluorophenyl)-1-trityl-1H-pyrazolo[4,3-c]pyridine
A solution of 500 mg of 3-bromo-1-trityl-1H-pyrazolo[4,3-c]pyridine, 131 mg of 3-fluorophenylboronic acid, tetrakis(triphenylphosphine)palladium(0) and 537 mg of barium hydroxide octahydrate in a mixed solution of 18 mL of dimethoxyethane and 3 mL of water was stirred at 80° C. for 2 hours. The solution was diluted with ethyl acetate and water, followed by filtration through Celite. The organic layer of filtrate was washed with saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The crude product was purified and separated by silica gel column chromatography (ethyl acetate:n-hexane=1:10-1:3-dichloromethane:n-hexane=1:2-1:1-dichloromethane:methanol 100:1), to afford 399 mg of the title compound as colorless crystals.

reactant | 3-bromo-1-trityl-1H-pyrazolo[4,3-c]pyridine | 500 mg | BrC1=NN(C2=C1C=NC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C25H18BrN3
reactant | 3-fluorophenylboronic acid | 131 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | barium hydroxide octahydrate | 537 mg | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | dimethoxyethane | 18 mL | C(OC)COC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 3 mL | O | H2O
product | 3-(3-Fluorophenyl)-1-trityl-1H-pyrazolo[4,3-c]pyridine | 399 mg | FC=1C=C(C=CC1)C1=NN(C2=C1C=NC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C31H22FN3
